US04741831
[CHELANT C: X1 is 6-methylene-2,4-dimethylphenol]
To a 13 g aqueous solution (33%) of polyethyleneimine CORCAT 150 (from Cordova Chemical Company) containing 0.1 mole of available amine nitrogen is added 10.8 g of 2,4-dimethyl phenol (0.1 mole). The solution is maintained below 20° C., while a 37% aqueous formaldehyde solution (0.11 mole) is added slowly with stirring. The solution is allowed to stand for an hour at ambient temperature and then warmed to 80° C. for 2 hrs. The aqueous solution is used without purification in subsequent experiments.

reactant | 2,4-dimethyl phenol | 0.1 mole, 10.8 g | CC1=C(C=CC(=C1)C)O | C8H10O
reactant | formaldehyde | 0.11 mole | C=O | CH2O
product | 6-methylene-2,4-dimethylphenol | C=C1C=C(C=C(C1O)C)C | C9H12O
